US09108939B2
D: 2-(4-((4-(4-Aminobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
A stirred mixture of 1,1,1,3,3,3-hexafluoro-2-(4-((4-(4-nitrobenzylidene)piperidin-1-yl)methyl)phenyl)propan-2-ol (15.39 mmol, 7.3 g) and palladium on carbon (5%) (0.308 mmol, 0.328 g) in ethyl acetate was hydrogenated at 3 bar until the desired amount of hydrogen was consumed. The mixture was filtered through celite washing with ethyl acetate. The filtrate was concentrated under reduced pressure. The residue was chromatographed on silica (eluting with a gradient of dichloromethane to ethyl acetate) to give the title compound (4.3 g). MS (ESI) m/z 447.2 [M+H]+

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-((4-(4-nitrobenzylidene)piperidin-1-yl)methyl)phenyl)propan-2-ol | 15.39 mmol, 7.3 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCC(CC1)=CC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C22H20F6N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.308 mmol, 0.328 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-((4-(4-Aminobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 4.3 g | NC1=CC=C(CC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1 | C22H24F6N2O
